US07420001B2
To 80 mg of (S)-2-{4′-[(4-methoxy-3,5-dimethyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid tert-butyl ester was added 2 mL of TFA/dichloromethane (1:1) and the solution was stirred at room temperature for 3 h. When the reaction was done, the solvent was removed under vacuum and the residue was triturated with acetonitrile. Filtration of the suspension gave 64 mg of (S)-2-{4′-[(4-methoxy-3,5-dimethyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.8 (dd, J=12.4, 6.8 Hz, 6 H) 2.0 (m, 1 H) 2.3 (s, 3 H) 2.7 (s, 3 H) 3.6 (dd, J=9.3, 5.8 Hz, 1 H) 3.8 (s, 3 H) 7.4 (m, 2 H) 7.8 (d, J=8.8 Hz, 2 H) 7.9 (m, 4 H) 8.0 (d, J=8.8 Hz, 2 H) 8.1 (d, J=9.3 Hz, 1 H) 10.5 (s, 1 H).

reactant | (S)-2-{4′-[(4-methoxy-3,5-dimethyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid tert-butyl ester | 80 mg | C(C)(C)(C)OC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C(=C(C=C2)C)OC)=O | C33H38N2O7S
reactant | TFA dichloromethane | 2 mL | C(=O)(C(F)(F)F)O.ClCCl
product | (S)-2-{4′-[(4-methoxy-3,5-dimethyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid | 64 mg | COC1=C(C=CC2=C1C(=C(O2)C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)N[C@H](C(=O)O)C(C)C)C)C | C29H30N2O7S
